US09382188B2
C) 2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate
To a solution of 2′-fluoro-5′-methoxy-4-((triisopropylsilyl)oxy)biphenyl-2-ol (9.42 g) in acetonitrile (130 mL) were added triethylamine (5.0 mL), 4-dimethylaminopyridine (302 mg) and trifluoromethanesulfonic anhydride (5.0 mL) at 0° C., and the mixture was stirred for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in THF (100 mL). A 1.0 M solution of tetrabutylammonium fluoride in THF (48 mL) was added, and the mixture was stirred at room temperature for 30 min. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (7.41 g) as a yellow oil.

reactant | 2′-fluoro-5′-methoxy-4-((triisopropylsilyl)oxy)biphenyl-2-ol | 9.42 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)O[Si](C(C)C)(C(C)C)C(C)C)O | C22H31FO3Si
reactant | triethylamine | 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 5.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 130 mL | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 302 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate | 7.41 g | FC(S(=O)(=O)OC1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F)(F)F | C14H10F4O5S
